Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Lipitor / Simvastatin / Vicodin / clindamycin / 
methylprednisolone / sulfa meth-trimethoprin
 
Attending: ___.
 
Chief Complaint:
Biopsy proved endometrial intraepithelial neoplasia
 
Major Surgical or Invasive Procedure:
Robot-Assisted Total Laparascopic Hystercectomy
Bilateral Salpingo-oophorectomy

 
History of Present Illness:
Ms. ___ is a ___ G3P1 who presents in consultation 
regarding an endometrial biopsy revealing EIN and possible 
adenocarcinoma. Approximately ___ years ago, she experienced a 
brief episode of postmenopausal bleeding and
underwent endometrial biopsy which was negative for malignancy. 
At the end of ___, she again experienced a few days of 
postmenopausal bleeding with bright red blood on wiping. She 
last bled on ___. She presented to Dr. ___ and 
underwent a pelvic ultrasound on ___ revealing a 7-mm
endometrium. She underwent endometrial biopsy on ___ 
revealing endometrial intraepithelial neoplasia with foci 
approaching well-differentiated carcinoma. 

 
Past Medical History:
POBHX: G3P1
- cesarean x 1

PGYNHX: 
- LMP ___ years ago.
- Denies abnormal pap, most recently negative on ___.
- Not currently sexually active.
- Has never used oral contraceptives or hormone replacement
therapy. 
- Denies a history of STIs.

PMH: 
- Hypertension
- Asthma, denies hospitalizations or intubations for asthma.
- Obstructive sleep apnea, on CPAP.
- Hyperlipidemia
- Migraines
- GERD
- Obesity, BMI 46.5

PSH: 
- eye surgery, ___
- benign tumor removed from right breast, ___
- heart catheterization, negative, ___

HCM: She is up-to-date on her mammograms and colonoscopies. SHe
is unsure if she has undergone a bone density scan.

 
Social History:
___
Family History:
Her mother had premenopausal breast cancer diagnosed at age ___, 
of which she died at age ___. Her maternal aunt had 
postmenopausal breast cancer. Her sister had vulvar cancer. She 
thinks her mother had some type of gynecologic cancer but is 
unsure what type. She has a family history of diabetes, 
hypertension and cardiac disease. She denies a family history of
thromboembolic events.

 
Physical Exam:
During office visit

Weight 240 pounds, Height 5'0", BMI=46
GEN:      NAD, comfortable
Lungs:    Clear bilaterally
Cardiac:  RRR
ABD:      Soft, NT, ND, No HSM, No masses.
EXTL      No CT, No edema

PELVIC
EGBUS:   NEFG, no discoloration
VAG:     No atrophy. no d/c, or lesion.
CX:      No CMT, lesions, bleeding.
UT:      Mobile, NT
R AD:    NT. No masses palpable.
L AD:    NT. No masses palpable.

Upon discharge
In no acute distress
Abdomen soft, non-distended, non-tender, port site incision 
dressings were clean dry and intact.
Extremities were non-tender and non-edematous
 
Pertinent Results:
___ 08:05AM BLOOD WBC-13.1*# RBC-4.43 Hgb-12.0 Hct-36.2 
MCV-82 MCH-27.1 MCHC-33.2 RDW-14.8 Plt ___
___ 08:05AM BLOOD Glucose-104* UreaN-9 Creat-0.6 Na-139 
K-4.0 Cl-103 HCO3-25 AnGap-15
___ 08:05AM BLOOD Calcium-9.4 Phos-2.8 Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted into the Gynecology oncology service 
for routine post-operative care following her procedure. Please 
refer to the full operative note regarding the details of the 
procedure.

She had an uncomplicated post-operative course. Her foley 
catheter was discontinued on POD#1 after she ambulated and she 
subsequently voided. Her diet was advanced as tolerated and she 
tolerated a regular diet. She was transitioned from IV pain 
medications to oral pain medications with adequate pain control.

She was therefore discharged home on post-operative day 1 in 
good condition, ambulating, tolerating PO intake and tolerating 
oral pain medications without complications. She had adequate 
follow up in place.
 
Medications on Admission:
clonazepam 0.5 1 tab qAM and 2 tabs qPM, CPAP, fexofenadine 
180mg, fluticasone 1spray/nostril, Flovent HFA 220mcg 2 puffs 
BID, Advair Diskus 250 mcg-50mcg 1puff daily, 
hydrochlorothiazide 12.5 mg, Singulair 10 mg, Nitrostat 0.4 mg 
sublingual prn, omeprazole 20 mg qAM, Crestor 20 mg, aspirin 
81mg, vitamin D3

 
Discharge Medications:
1. ClonazePAM 0.5 mg PO DAILY in am 
2. ClonazePAM 1 mg PO QHS 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH Q 24H 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Montelukast Sodium 10 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Rosuvastatin Calcium 20 mg PO DAILY 
9. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen [Endocet] 5 mg-325 mg ___ tablet(s) 
by mouth every ___ hours Disp #*40 Tablet Refills:*0
10. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every ___ hours Disp 
#*50 Tablet Refills:*0
11. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial Intraepithelial neoplasia
Final pathology pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
 
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks.
* No heavy lifting of objects >10lbs for ___ weeks.  
* You may eat a regular diet 

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery. If you have steri-strips, leave them on. If they are 
still on after ___ days from surgery, you may remove them.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___